US07071216B2
To a stirring solution of 6-nitroindole (1 eq) in dichloromethane (0.3M) and DMF (3.1M), was added di-t-butyl dicarbonate (2 eq) followed by the addition of 4-(dimethyl amino) pyridine (1 eq). Resulting solution was allowed to stir overnight at room temperature. The dichloromethane was then removed on a rotovap and remaining solution diluted with water and extracted with ethyl acetate. Organics were washed with 10% citric acid solution, saturated solution of sodium chloride, saturated solution of sodium bicarbonate, saturated solution of sodium chloride and dried with sodium sulfate. Ethyl acetate was then removed in vacuo. Ethyl ether was then added and a brown solid was collected by suction filtration to yield 6-Nitro-indole-1-carboxylic acid t-butyl ester. MS: MH+263

reactant | 6-nitroindole | 1 eq | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | di-t-butyl dicarbonate | 2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 0.3M | ClCCl | CH2Cl2
solvent | DMF | 3.1M | CN(C)C=O | C3H7NO
catalyst | 4-(dimethyl amino) pyridine | 1 eq | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-Nitro-indole-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)[N+](=O)[O-] | C13H14N2O4
